US04564386
To a solution of N-propargyl-2,4-dimethyl-5-(trifluoromethanesulfonamido)benzenesulfonamide (1.5 g) and triethylamine (1.2 g) in tetrahydrofuran (20 ml), acetyl chloride (1.0 g) was added, and the resultant mixture was allowed to stand at room temperature overnight. The reaction mixture was concentrated, admixed with 5% hydrochloric acid and extracted with chloroform. The extract was concentrated to give an oily substance, which was purified by silica gel chromatography to give 1.4 g of N-acetyl-N-propargyl-2,4-dimethyl-5-(N-acetyl-N-trifluoromethanesulfonylamino)benzenesulfonamide (Compound No. 10). nD20 1.5209.

reactant | N-propargyl-2,4-dimethyl-5-(trifluoromethanesulfonamido)benzenesulfonamide | 1.5 g | C(C#C)NS(=O)(=O)C1=C(C=C(C(=C1)NS(=O)(=O)C(F)(F)F)C)C | C12H13F3N2O4S2
reactant | triethylamine | 1.2 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 1.0 g | C(C)(=O)Cl | C2H3ClO
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-acetyl-N-propargyl-2,4-dimethyl-5-(N-acetyl-N-trifluoromethanesulfonylamino)benzenesulfonamide | 1.4 g | C(C)(=O)N(S(=O)(=O)C1=C(C=C(C(=C1)N(S(=O)(=O)C(F)(F)F)C(C)=O)C)C)CC#C | C16H17F3N2O6S2
